US05824690
Synthesis of 4-(methyl-phenyl)-piperidine-4-carboxylic acid amide hydriodide
Combine 4-(methyl-phenyl)-piperidine-4-carboxylic acid amide hydrochloride (10 mmol) and an aqueous solution of hydriodic acid (57%, 15 mmol) in ethanol (20 mL). Heat to reflux. After 30 minutes, cool to ambient temperature and evaporate in vacuo to give the title compound.

reactant | 4-(methyl-phenyl)-piperidine-4-carboxylic acid amide hydrochloride | 10 mmol | Cl.CC1=C(C=CC=C1)C1(CCNCC1)C(=O)N
reactant | hydriodic acid | 15 mmol | I | HI
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-(methyl-phenyl)-piperidine-4-carboxylic acid amide hydriodide | I.CC1=C(C=CC=C1)C1(CCNCC1)C(=O)N | InChI=1S/C13H18N2O.HI/c1-10-4-2-3-5-11(10)13(12(14)16)6-8-15-9-7-13;/h2-5,15H,6-9H2,1H3,(H2,14,16);1H
